US06476030B1
f) 2-(2-Ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-3,7-bis(2-fluorophenyl)-pyrazolo[1,5-d][1,2,4]triazine
The title compound was prepared as part of a rapid analogue library using the following methodology. To a solution of (2-ethyl-2H-[1,2,4]triazol-3-yl)methanol (32 mg, 0.25 mmol) in dry N,N-dimethylformamide (5 ml) in a RADLEYS reaction carousel under nitrogen was added sodium hydride (60% wt in oil) (10 mg, 0.25 mmol) and the suspension was stirred for 30 min. A solution of 3,7-bis(2-fluorophenyl)-2-(p-toluenesulfonyloxy)pyrazolo[1,5-d][1,2,4]triazine (100 mg, 0.21 mmol) in dry N,N-dimethylformamide (2 ml) was then added and the solution was stirred under nitrogen for 1 h. A further amount (4 mg, 0.10 mmol) of sodium hydride (60% wt in oil) was added and the solution was stirred for 18 h. Water (25 ml) was added to quench the reaction and the solid which was precipitated was collected by filtration and washed with water. The solid was dissolved in dichloromethane, filtered and the filtrate was concentrated in vacuo to give a white solid (40 mg). Data for the title compound: mp=164° C.; 1H NMR (360 MHz, CDCl3) δ 1.31 (3H, t), 4.09-4.16 (2H, m), 5.56 (2H, s), 7.21-7.33, (3H, m), 7.37-7.43 (2H, m), 7.58-7.68 (2H, m), 7.82 (1H, m), 7.87 (1H, s), 9.28 (1H, s); MS (ES+) m/e 434 [MH]+; HPLC>97% purity (run on an HP1100, using a Hichrom KR100-5C18, 25 cm column, flow rate of 1 ml/min and 50% acetonitrile/pH 3 phosphate buffer as the mobile phase).

reactant | (2-ethyl-2H-[1,2,4]triazol-3-yl)methanol | 0.25 mmol, 32 mg | C(C)N1N=CN=C1CO | C5H9N3O
reactant | sodium hydride | [H-].[Na+]
reactant | 3,7-bis(2-fluorophenyl)-2-(p-toluenesulfonyloxy)pyrazolo[1,5-d][1,2,4]triazine | 0.21 mmol, 100 mg | FC1=C(C=CC=C1)C=1C(=NN2C(=NN=CC21)C2=C(C=CC=C2)F)OS(=O)(=O)C2=CC=C(C=C2)C | C24H16F2N4O3S
reactant | sodium hydride | 0.10 mmol, 4 mg | [H-].[Na+]
reactant | Water | 25 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-(2-Ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-3,7-bis(2-fluorophenyl)-pyrazolo[1,5-d][1,2,4]triazine | C(C)N1N=CN=C1COC1=NN2C(=NN=CC2=C1C1=C(C=CC=C1)F)C1=C(C=CC=C1)F | C22H17F2N7O
